US05624543
2-Isopropylanthraquinone.
Fuming sulfuric acid (25 mL, 30%) was added to 8.5 g (32 mmol) of 2-(4'isopropylbenzoyl)benzoic acid. The mixture was then heated to 95° C. for 1 h in a water bath. The resultant dark solution was poured cautiously over crushed ice to yield a beige solid which was extracted with chloroform. The chloroform layer was washed sever-al times with a dilute NaOH solution ≈10%), followed by a dilute HCl solution and finally with deionized water. The resultant yellow chloroform solution was dried with MgSO4, filtered and the chloroform was removed under vacuum to yield a yellow/orange solid. The product was recrystallized from heptane to yield a yellow product. (1.00 g, 113%), mp 53-54° C.

reactant | sulfuric acid | 25 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2-(4'isopropylbenzoyl)benzoic acid | 32 mmol, 8.5 g | C(C)(C)C1=CC=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=C1 | C17H16O3
product | 2-Isopropylanthraquinone | C(C)(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C17H14O2
